US06211242B1
To a mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(2-hydroxyiminoethoxy)phenyl]benzamide (255 mg) and potassium carbonate (78.5 mg) in N,N-dimethylformamide (10 ml) was added ethyl bromoacetate (94.9 mg) and the mixture was stirred at ambient temperature for 5 hours. The mixture was diluted with ethyl acetate (30 ml) and the solution was washed with water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil. The oil was purified by silica gel column (chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-(ethoxycarbonylmethoxyimino)ethoxy]phenyl]benzamide (245 mg) as a colorless amorphous.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(2-hydroxyiminoethoxy)phenyl]benzamide | 255 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC=NO)C)C=C1 | C30H27N3O4
reactant | potassium carbonate | 78.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 94.9 mg | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-(ethoxycarbonylmethoxyimino)ethoxy]phenyl]benzamide | 245 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC=NOCC(=O)OCC)C)C=C1 | C34H33N3O6
